US07049310B2
Preparation of (E)-3-(6-aminopyridin-3-yl)-N-(4-fluoro-1H-indol-3-ylmethyl)-N-methylacrylamide
According to the procedure of Example 24, except substituting 4-fluoro-3-(methylaminomethyl)-1H-indole (0.31 g, 1.74 mmole) for the 2,3-dihydro-8-(methylaminomethyl)-1H-3a-azacyclopenta[a]indene, and substituting (E)-3-(6-aminopyridin-3-yl)acrylic acid (0.285 g, 1.74 mmole) for the (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt, the title compound (0.2 g, 36%) was prepared as a white powder: MS (ES) m/e 325 (M+H)+.

reactant | 4-fluoro-3-(methylaminomethyl)-1H-indole | 1.74 mmole, 0.31 g | FC1=C2C(=CNC2=CC=C1)CNC | C10H11FN2
reactant | 2,3-dihydro-8-(methylaminomethyl)-1H-3a-azacyclopenta[a]indene | CNCC1=C2N(C=3C=CC=CC13)CCC2 | C13H16N2
reactant | (E)-3-(6-aminopyridin-3-yl)acrylic acid | 1.74 mmole, 0.285 g | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
product | (E)-3-(6-aminopyridin-3-yl)-N-(4-fluoro-1H-indol-3-ylmethyl)-N-methylacrylamide | 0.2 g, 36% | NC1=CC=C(C=N1)/C=C/C(=O)N(C)CC1=CNC2=CC=CC(=C12)F | C18H17FN4O
